US05028604
1-(6-methoxy-1,2,3,4 tetrahydronaphthalen-2-ylacetyl)-L-proline methyl ester was prepared as an oily substance in the same manner as Reference Example 1, except that 6-methoxy-1,2,3,4-tetrahydronaphthalen-2-ylacetic acid and L-proline methyl ester were used instead of 2-indanylacetic acid and L-thioproline ethyl este respectively (yield: 79%).

reactant | 6-methoxy-1,2,3,4-tetrahydronaphthalen-2-ylacetic acid | COC=1C=C2CCC(CC2=CC1)CC(=O)O | C13H16O3
reactant | L-proline methyl ester | COC([C@H]1NCCC1)=O | C6H11NO2
reactant | 2-indanylacetic acid | C1(CCC2=CC=CC=C12)CC(=O)O | C11H12O2
product | 1-(6-methoxy-1,2,3,4 tetrahydronaphthalen-2-ylacetyl)-L-proline methyl ester | yield: 79% | COC([C@H]1N(CCC1)C(CC1CC2=CC=C(C=C2CC1)OC)=O)=O | C19H25NO4
